US07790895B2
4-Trifluoromethanesulfonyloxy-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester (208 mg, 0.5 mmol), 3-formalphenylboronic acid (82.5 mg, 0.55 mmol), tetrakis(triphenylphosphine)palladium(0) (29 mg) and potassium phosphate (159 mg, 0.75 mmol) were heated together in dioxane (5 mL) to 80° C. overnight. The reaction mixture was then diluted with ethyl acetate and washed with brine twice. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash column eluted with 30% ethyl acetate in hexane to yield 4-(3-formyl-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester as a white solid.

reactant | 4-Trifluoromethanesulfonyloxy-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | 0.5 mmol, 208 mg | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1OS(=O)(=O)C(F)(F)F)C(F)(F)F | C14H9F6NO5S
reactant | potassium phosphate | 0.75 mmol, 159 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-formyl-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1C1=CC(=CC=C1)C=O)C(F)(F)F | C20H14F3NO3
